US04064350
To 24.4 parts of 3-tetrahydropyranyloxy-1-propyne dissolved in 300 parts by volume of anhydrous ether and cooled to -50° C is added 74 parts by volume of 2.4 molar n-butyl lithium in hexane. The mixture is stirred for 45 minutes and allowed to warm to 30° C and then 19.3 parts of trimethylsilyl chloride in 50 parts by volume of dry ether is added and the mixture allowed to stand for about 12 hours. The mixture is cooled to 5° C and water is added. The ethereal layer is washed with water, saturated sodium chloride, and dried over anhydrous sodium sulfate. The solvent is removed and the residual liquid is distilled at 0.20 mm at 67°-69° to provide 1-trimethylsilyl-3-tetrahydropyranyloxy-1-propyne (Tetrahedron 29, 883 (1973).

reactant | 3-tetrahydropyranyloxy-1-propyne | O1C(CCCC1)OCC#C | C8H12O2
reactant | n-butyl lithium | 2.4 molar | C(CCC)[Li]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 1-trimethylsilyl-3-tetrahydropyranyloxy-1-propyne | C[Si](C#CCOC1OCCCC1)(C)C | C11H20O2Si
